US05089506
2-Aminobenzobicyclo[2.2.1]heptene
Sodium azide (2 g) was combined with water (40 ml) and tetrahydrofuran (40 ml) and cooled to 0° C. Mercuric acetate (4g) was added to the cold solution and the mixture was stirred for 20 minutes. Benzobicyclo[2.2.1]heptadiene (2 g) was added to the stirred mixture and the resulting mixture was heated to 75° C. for 24 hours. The solution was cooled to room temperature, treated with 10% sodium hydroxide in water (10 ml) and sodium borohydride (0.4 g), and stirred for 1 hour. The two layers were separated and the organic layer was dried over magnesium sulfate and the solvent removed on a rotary evaporator. The residue was combined with tetrahydrofuran (20 ml) and added to a suspension of lithium aluminum hydride (0.1 g) in tetrahydrofuran (20 ml). The mixture was stirred at room temperature for 3 hours, treated with water (1 ml) and filtered. The solvent was removed on a rotary evaporator to provide the product as a yellow oil.

reactant | Sodium azide | 2 g | [N-]=[N+]=[N-].[Na+]
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | Benzobicyclo[2.2.1]heptadiene | 2 g | C=12C3=C(C(=CC1)C2)C=CC=C3 | C11H8
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | sodium borohydride | 0.4 g | [BH4-].[Na+]
solvent | water | 40 ml | O | H2O
product | 2-Aminobenzobicyclo[2.2.1]heptene | NC=1C=C2C3=C(C1C2)C=CC=C3 | C11H9N
